US07989441B2
To a solution of diisopropylamine (0.77 mL, 5.53 mmol) in THF (4 mL) at 0° C. is added BuLi (2.17 mL, 5.42 mmol, 2.5 M in hexane) dropwise. The solution is stirred at 0° C. for 30 minutes to form an LDA solution. The LDA solution is cold to −70° C. and added to a solution of (S)-4-benzyl-3-(4-bromo-butyryl)-oxazolidin-2-one (1.72 g, 5.07 mmol) in THF (4 mL) at −70° C. dropwise. After stirring at −70° C. for 2 hours, a solution of di-t-butyl azodicarboxylate (1.40 g, 6.08 mmol) in CH2Cl2 (4 mL) is added slowly. After stirring at −70° C. for 15 minutes, Bu4NI (0.28 g, 0.76 mmol) is added in one portion. After stirring at −70° C. for 10 minutes, the flask with reaction mixture is moved to a −20° C. bath and stirred overnight (16 hours). The reaction mixture is quenched to ether (50 mL) with buffer solution (50 mL, Ph=7), and the mixture is extracted with ether (3×50 mL). The organic layer is dried over Na2SO4 and concentrated. The crude product is purified by chromatography (hexane/EtOAc:70/30) to give (S)-3-((S)-4-benzyl-2-oxo-oxazolidine-3-carbonyl)-tetrahydro-pyridazine-1,2-dicarboxylic acid di-tert-butyl ester as white solid (1.22 g, 49.3%). (NMR and MS data confirmed, U-3133-55-30).

reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | (S)-4-benzyl-3-(4-bromo-butyryl)-oxazolidin-2-one | 5.07 mmol, 1.72 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(CCCBr)=O | C14H16BrNO3
reactant | di-t-butyl azodicarboxylate | 6.08 mmol, 1.40 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
catalyst | Bu4NI | 0.76 mmol, 0.28 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
product | (S)-3-((S)-4-benzyl-2-oxo-oxazolidine-3-carbonyl)-tetrahydro-pyridazine-1,2-dicarboxylic acid di-tert-butyl ester | 1.22 g, 49.3% | C(C)(C)(C)OC(=O)N1N([C@@H](CCC1)C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)C(=O)OC(C)(C)C | C25H35N3O7
